data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_346780_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:6]([H:9])[C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[C:7]([H:11])=[N:8]1>>[C:1]([C:3]([H:12])([H:13])[H:14])(=[C:4]([H:15])[H:16])[N:6]([C:2]([C:5]([H:18])([H:19])[H:20])(/[C:7](=[N:8]\[H:17])[H:11])[H:10])[H:9],71.35051499998696
MR_466709_1,[C:1](/[N:2]=[N:8]/[C:6]1([H:11])[C:4](=[O:9])[N:3]([H:10])[C:5]1=[C:7]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([N:2]1[C:5](=[C:7]([H:15])[H:16])[N:3]([H:10])[C:4](=[O:9])[C:6]([H:11])=[N:8]1)([H:12])([H:13])[H:14],50.63987749994951
MR_427016_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:7]([O:8][H:10])[O:9][H:11]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([N:7]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[H:12])[O:8][H:10])[O:9][H:11],72.65947999999938
MR_573487_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])([C:7]([C:4]([H:18])([H:19])[H:20])[C:8]([C:5]([H:22])([H:23])[H:24])[C:6]([H:21])([H:25])[H:26])[C:9](=[O:10])[H:11]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C:7]([C:4]([H:18])([H:19])[H:20])([C:9](=[O:10])[H:11])[C:8]1([C:5]([H:22])([H:23])[H:24])[C:6]([H:21])([H:25])[H:26],67.14312750005149
MR_639345_0,[C:1](=[C:2]([N:6]=[C:3]([H:10])[H:11])[H:9])([O:4][H:8])[O:5][H:7]>>[C:1]1([O:4][H:8])([O:5][H:7])[C:2]([H:9])=[N:6][C:3]1([H:10])[H:11],42.226985000002486
MR_662657_1,[C:1]([C:4]12[C:2](=[O:8])[N:7]1[C:6]([H:11])=[C:3]2[N:5]([H:9])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([N:5]([H:9])[H:10])[C:6]([H:11])=[N:7][C:2]1=[O:8])([H:12])([H:13])[H:14],6.787667499984025
MR_407771_0,[C:1]([C:2]([O:7][H:9])([H:14])[H:15])([N:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:8])[N:6]([H:10])[H:11])([H:12])[H:13]>>[C:1]([C:2]([O:7][H:11])([H:14])[H:15])([N:4]([C:5]([C:3]([H:16])([H:17])[H:18])=[O:8])[N:6]([H:9])[H:10])([H:12])[H:13],47.44213749999744
MR_147805_1,[C:1]1([N:5]([H:13])[H:14])([H:12])[C:2]([H:15])([H:16])[C:4]1([O:8][C:3]([O:6][H:10])=[O:7])[O:9][H:11]>>[C:1]([C:2]([C:4](=[O:8])[O:9][H:11])([H:15])[H:16])([C:3]([O:6][H:10])=[O:7])([N:5]([H:13])[H:14])[H:12],52.24314000000362
MR_601465_0,[C:1](\[C:2](=[C:4]([H:12])[H:13])[O:6][H:9])([O:5][H:8])=[N:7]\[N:3]([H:10])[H:11]>>[C:1]1([O:5][H:8])=[C:2]([O:6][H:9])[C:4]([H:12])([H:13])[N:7]1[N:3]([H:10])[H:11],50.651172500028
MR_49204_0,[C:1]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([C:4](=[C:6]([H:16])[H:17])[H:10])([O:7][H:8])[H:9]>>[C:1]([C:4]([C:3]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])([C:6]([H:8])([H:16])[H:17])[H:10])(=[O:7])[H:9],67.50644999999025
MR_88299_1,[C@@:1]([N:4]([H:10])[H:11])(/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[H:12])([O:7][C:2]([H:14])([H:15])[H:16])[O:8][H:9]>>[C:1](\[N:4]([H:10])[H:11])(=[C:5](\[C@@:6]([C:3]([H:17])([H:18])[H:19])([O:7][C:2]([H:14])([H:15])[H:16])[H:13])[H:12])[O:8][H:9],53.16556499999322
MR_91116_0,[C:1]([O:5][C:2]([H:10])([H:11])[H:12])(/[N:6]=[C:4](\[C:3]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8]>>[C:1]([N:6][C@@:4]([C:3]([H:13])([H:14])[H:15])([O:5][C:2]([H:10])([H:11])[H:12])[H:9])([H:7])[H:8],61.659404999985554
MR_160604_1,[C:1]([C:3]([C:2]([H:10])([H:11])[H:12])=[O:6])([N:4][N:5][H:7])([H:8])[H:9]>>[C:1](=[C:3]([C:2]([H:10])([H:11])[H:12])[O:6][N:4][N:5][H:7])([H:8])[H:9],51.142505000035925
MR_390859_0,[C:1]([O:2][O:4][H:6])([N:5]=[O:3])([H:7])[H:8]>>[C:1](=[N:5][O:3][O:2][O:4][H:6])([H:7])[H:8],65.96405499999648
MR_98865_0,[C:1]([N:3]([H:10])[H:11])([N:4]([H:8])[H:9])(/[N:6]=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[H:7]>>[C:1](\[N:4]([H:8])[H:9])(=[N:6]/[C:5]([C:2]([H:13])([H:14])[H:15])([N:3]([H:10])[H:11])[H:12])[H:7],53.99512000000328
MR_626413_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([N:5]([H:11])[H:12])([C:6](=[C:7]([H:20])[H:21])[H:13])[N:9]([C:3]([H:17])([H:18])[H:19])[H:10])=[O:8]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([N:5]([H:11])[H:12])=[N:9]/[C:3]([H:17])([H:18])[H:19])([C:6](=[C:7]([H:20])[H:21])[H:13])[O:8][H:10],35.060934999975046
MR_194970_1,[C:1](/[C:3](=[C:2]([N:4]([H:9])[H:10])\[N:8]=[C:7](/[N:6]([H:13])[H:14])[H:15])[N:5]([H:11])[H:12])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:5]([H:11])[H:12])[C:2]([N:4]([H:9])[H:10])=[N:8][C:7]1([N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],43.20525749999376
MR_73188_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([C:3]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[O:8][H:9])(=[O:7])[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([N:6]([H:11])[H:12])=[O:8])([O:7][H:9])[H:10],73.10375000001912
MR_41946_0,[N:1](\[N:3]([H:8])[H:9])=[C:5](/[N:7](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])[H:13])[H:14]>>[N:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])([N:3]([H:8])[H:9])/[C:5](=[N:7]/[H:13])[H:14],51.03331999999057
